### PR TITLE
[Merged by Bors] - feat(RingTheory/Smooth): smooth is equivalent to locally standard smooth

### PR DESCRIPTION
**Pull request by chrisflav**
From Pi1.

---

- [x] depends on: #32925 

The import increase is expected. The file `Mathlib.RingTheory.Smooth.StandardSmoothOfFree` is a leaf file that was planned to contain this proof.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Etale/Basic.lean [hunk 1]
```diff
@@ -183,6 +183,10 @@ theorem of_isLocalization : FormallyEtale R Rₘ :=
   FormallyEtale.iff_formallyUnramified_and_formallySmooth.mpr
     ⟨FormallyUnramified.of_isLocalization M, FormallySmooth.of_isLocalization M⟩
 
+instance : FormallyEtale R (Localization M) := by
+  rw [FormallyEtale.iff_formallyUnramified_and_formallySmooth]
+  exact ⟨inferInstance, inferInstance⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/Etale/Basic.lean]: I think you should instead provide `[FormallyEtale R S] (M : Submonoid S) : FormallyEtale R (Localization M)`.

File: Mathlib/RingTheory/Etale/Kaehler.lean [hunk 2]
```diff
@@ -65,6 +65,13 @@ instance KaehlerDifferential.isLocalizedModule_map (M : Submonoid S) [IsLocaliza
   have := Algebra.FormallyEtale.of_isLocalization (Rₘ := T) M
   (isLocalizedModule_iff_isBaseChange M T _).mpr (isBaseChange_of_formallyEtale R S T)
 
+lemma KaehlerDifferential.span_range_map_derivation_of_isLocalization
+    (M : Submonoid S) [IsLocalization M T] :
+    Submodule.span T (Set.range <| fun s ↦ map R R S T (D R S s)) = ⊤ := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Etale/Kaehler.lean]:
```suggestion
    Submodule.span T (Set.range fun s ↦ map R R S T (D R S s)) = ⊤ := by
```
Or even `map R R S T ∘ D R S` if you feel like it.

File: Mathlib/RingTheory/Localization/Away/Basic.lean [hunk 3]
```diff
@@ -319,6 +319,28 @@ theorem away_of_isUnit_of_bijective {R : Type*} (S : Type*) [CommSemiring R] [Co
...
+
+lemma Away.mul_of_associated (x z : R) (y : S) [IsLocalization.Away x S]
+    {T : Type*} [CommRing T] [Algebra S T] [Algebra R T] [IsScalarTower R S T]
+    [IsLocalization.Away y T]
+    (h : Associated (algebraMap R S z) y) : IsLocalization.Away (x * z) T := by
+  obtain ⟨u, hu⟩ := h.symm
+  have : Away ((algebraMap R S) z) T := by
+    rw [← hu]
+    exact .mul_of_isUnit _ _ (u.isUnit.map _)
+  exact .mul' S _ _ _
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Away/Basic.lean:339]: Would a lemma like `Associated a b \to IsLocalization.Away a T \iff IsLocalization.Away b T` be useful here?

File: Mathlib/RingTheory/Localization/Module.lean [hunk 4]
```diff
@@ -332,4 +332,39 @@ lemma LocalizedModule.restrictScalars_map_eq {M' N' : Type*} [AddCommMonoid M']
   ext
   simp
 
+variable {S} in
+lemma LocalizedModule.coe_map_eq {M' N' : Type*} [AddCommMonoid M'] [AddCommMonoid N']
+    [Module R M'] [Module R N'] (g₁ : M →ₗ[R] M') (g₂ : N →ₗ[R] N')
+    [IsLocalizedModule S g₁] [IsLocalizedModule S g₂]
+    (l : M →ₗ[R] N) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Module.lean]:
```suggestion
    [IsLocalizedModule S g₁] [IsLocalizedModule S g₂] (l : M →ₗ[R] N) :
```

File: Mathlib/RingTheory/Smooth/Basic.lean [hunk 5]
```diff
@@ -484,6 +484,9 @@ theorem of_isLocalization : FormallySmooth R Rₘ := by
   ext
   simp
 
+instance : FormallySmooth R (Localization M) :=
+  .of_isLocalization M
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/Basic.lean]: Similarly this should be `[FormallySmooth R S] (M : Submonoid S) : FormallySmooth R (Localization M)`

File: Mathlib/RingTheory/Smooth/Locus.lean [hunk 6]
```diff
@@ -46,6 +46,10 @@ See `Algebra.basicOpen_subset_smoothLocus_iff_smooth` and `Algebra.isOpen_smooth
 abbrev IsSmoothAt (p : Ideal A) [p.IsPrime] : Prop :=
   Algebra.FormallySmooth R (Localization.AtPrime p)
 
+instance (priority := 900) SmoothAt.of_formallySmooth
+    [FormallySmooth R A] (p : Ideal A) [p.IsPrime] : IsSmoothAt R p :=
+  .comp _ A _
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/Locus.lean]: Is this necessary once you strengthened the instance above?

File: Mathlib/RingTheory/Localization/Away/Basic.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Localization/Away/Basic.lean:339]: It actually already exists (I even knew that ...) and it indeed golfs the proof.

File: Mathlib/RingTheory/Smooth/Locus.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Smooth/Locus.lean]: Indeed, no longer necessary.

File: Mathlib/RingTheory/Etale/Basic.lean [hunk 7]
```diff
@@ -183,6 +183,10 @@ theorem of_isLocalization : FormallyEtale R Rₘ :=
   FormallyEtale.iff_formallyUnramified_and_formallySmooth.mpr
     ⟨FormallyUnramified.of_isLocalization M, FormallySmooth.of_isLocalization M⟩
 
+instance [FormallyEtale R S] (M : Submonoid S) : FormallyEtale R (Localization M) := by
+  rw [FormallyEtale.iff_formallyUnramified_and_formallySmooth]
+  exact ⟨inferInstance, inferInstance⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/Etale/Basic.lean]:
```suggestion
instance [FormallyEtale R S] (M : Submonoid S) : FormallyEtale R (Localization M) :=
  .of_formallyUnramified_and_formallySmooth
```

File: Mathlib/RingTheory/LocalRing/Module.lean [hunk 8]
```diff
@@ -423,3 +423,17 @@ at every maximal ideal, then `M` is free of rank `n`. -/
   .of_basis b
 
 end Module
+
+/-- Let `M` be a finite `R`-module and `N` be a finitely presented `R`-module. If `f : M →ₗ[R] N`
+is a linear map whose localization at a prime ideal `p` is bijective, then there exists
+`g ∉ p` such that `f` is already bijective under the localization away from `g`. -/
+lemma Module.FinitePresentation.exists_notMem_bijective [AddCommGroup M] [Module R M]
```
Comment (erdOne) [inline Mathlib/RingTheory/LocalRing/Module.lean]: You don't need `R` to be local right? Then I think this should go near `exists_bijective_map_powers` in `Mathlib/Algebra/Module/FinitePresentation.lean`.

File: Mathlib/RingTheory/Localization/Away/Basic.lean [hunk 9]
```diff
@@ -319,6 +319,25 @@ theorem away_of_isUnit_of_bijective {R : Type*} (S : Type*) [CommSemiring R] [Co
...
+lemma Away.mul_of_isUnit' (x y : R) [IsLocalization.Away y S] (h : IsUnit (algebraMap R S x)) :
+    IsLocalization.Away (x * y) S :=
+  have : Away ((algebraMap R S) x) S := away_of_isUnit_of_bijective _ h Function.bijective_id
+  .mul S _ _ _
+
+lemma Away.mul_of_associated (x z : R) (y : S) [IsLocalization.Away x S]
+    {T : Type*} [CommRing T] [Algebra S T] [Algebra R T] [IsScalarTower R S T]
+    [IsLocalization.Away y T]
+    (h : Associated (algebraMap R S z) y) : IsLocalization.Away (x * z) T := by
+  have : Away ((algebraMap R S) z) T := by rwa [iff_of_associated h]
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Away/Basic.lean]:
```suggestion
  have : Away (algebraMap R S z) T := by rwa [iff_of_associated h]
```

File: Mathlib/RingTheory/Localization/Away/Basic.lean [hunk 10]
```diff
@@ -319,6 +319,25 @@ theorem away_of_isUnit_of_bijective {R : Type*} (S : Type*) [CommSemiring R] [Co
       rintro rfl
       exact ⟨1, rfl⟩ }
 
+variable {R S}
+
+lemma Away.mul_of_isUnit (x y : R) [IsLocalization.Away x S] (h : IsUnit (algebraMap R S y)) :
+    IsLocalization.Away (x * y) S :=
+  have : Away ((algebraMap R S) y) S := away_of_isUnit_of_bijective _ h Function.bijective_id
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Away/Basic.lean]:
```suggestion
  have : Away (algebraMap R S y) S := away_of_isUnit_of_bijective _ h Function.bijective_id
```

File: Mathlib/RingTheory/Localization/Away/Basic.lean [hunk 11]
```diff
@@ -319,6 +319,25 @@ theorem away_of_isUnit_of_bijective {R : Type*} (S : Type*) [CommSemiring R] [Co
...
+  .mul' S _ _ _
+
+lemma Away.mul_of_isUnit' (x y : R) [IsLocalization.Away y S] (h : IsUnit (algebraMap R S x)) :
+    IsLocalization.Away (x * y) S :=
+  have : Away ((algebraMap R S) x) S := away_of_isUnit_of_bijective _ h Function.bijective_id
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Away/Basic.lean]:
```suggestion
  have : Away (algebraMap R S x) S := away_of_isUnit_of_bijective _ h Function.bijective_id
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 12]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+    rw [Ideal.mem_iff_of_associated (IsLocalization.Away.associated_sec_fst g g').symm]
+    exact Ideal.mem_map_of_mem (algebraMap S (Localization.Away g)) hmem
+  -- `Ω[Localization.AtPrime p⁄R]` is projective, so free over the local ring `Sₚ` and
+  -- a basis extends to a neighbourhood `D(g)`.
+  let v (s : S) : (Ω[Localization.AtPrime p⁄R]) :=
+    map R R S (Localization.AtPrime p) (D R S s)
+  have hv : Submodule.span (Localization.AtPrime p) (Set.range v) = ⊤ :=
+    span_range_map_derivation_of_isLocalization R _ (Localization.AtPrime p) p.primeCompl
+  have : Algebra.EssFiniteType R (Localization.AtPrime p) :=
+    Algebra.EssFiniteType.comp R S (Localization.AtPrime p)
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
```
This is by infer instance.

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 13]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  have : Module.FinitePresentation (Localization.AtPrime p) (Ω[Localization.AtPrime p⁄R]) :=
+    Module.finitePresentation_of_projective (Localization.AtPrime p) (Ω[Localization.AtPrime p⁄R])
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]: We should add the instance formally smooth + essentially of finite type => Omega finitely presented.

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 14]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  obtain ⟨κ, a, b, hb⟩ := Module.exists_basis_of_span_of_flat v hv
+  let e : (κ →₀ S) →ₗ[S] (Ω[S ⁄R]) :=
+    Finsupp.basisSingleOne.constr S (fun i : κ ↦ D R S (a i))
+  let l₁ : (κ →₀ S) →ₗ[S] (κ →₀ Localization.AtPrime p) :=
+    Finsupp.mapRange.linearMap (Algebra.linearMap S (Localization.AtPrime p))
+  have : IsLocalizedModule p.primeCompl l₁ := inferInstance
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 15]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  let l₂ : (Ω[S⁄R]) →ₗ[S] (Ω[Localization.AtPrime p⁄R]) := map R R S (Localization.AtPrime p)
+  have : IsLocalizedModule p.primeCompl l₂ := inferInstance
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 16]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+    map R R S (Localization.AtPrime p) (D R S s)
+  have hv : Submodule.span (Localization.AtPrime p) (Set.range v) = ⊤ :=
+    span_range_map_derivation_of_isLocalization R _ (Localization.AtPrime p) p.primeCompl
+  have : Algebra.EssFiniteType R (Localization.AtPrime p) :=
+    Algebra.EssFiniteType.comp R S (Localization.AtPrime p)
+  have : Module.FinitePresentation (Localization.AtPrime p) (Ω[Localization.AtPrime p⁄R]) :=
+    Module.finitePresentation_of_projective (Localization.AtPrime p) (Ω[Localization.AtPrime p⁄R])
+  obtain ⟨κ, a, b, hb⟩ := Module.exists_basis_of_span_of_flat v hv
+  let e : (κ →₀ S) →ₗ[S] (Ω[S ⁄R]) :=
+    Finsupp.basisSingleOne.constr S (fun i : κ ↦ D R S (a i))
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
    Finsupp.linearCombination _ fun i ↦ D R S (a i)
```
I think this is clearer.

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 17]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  let l₂ : (Ω[S⁄R]) →ₗ[S] (Ω[Localization.AtPrime p⁄R]) := map R R S (Localization.AtPrime p)
+  have : IsLocalizedModule p.primeCompl l₂ := inferInstance
+  let eₚ : (κ →₀ Localization.AtPrime p) →ₗ[Localization.AtPrime p] (Ω[Localization.AtPrime p⁄R]) :=
+    IsLocalizedModule.mapExtendScalars p.primeCompl l₁ l₂ (Localization.AtPrime p) e
+  have : eₚ = b.repr.symm := by
+    refine Finsupp.basisSingleOne.ext fun i ↦ ?_
+    have : Finsupp.basisSingleOne i = l₁ (Finsupp.basisSingleOne i) := by simp [l₁]
+    simp only [this, IsLocalizedModule.mapExtendScalars_apply_apply, IsLocalizedModule.map_apply,
+      Module.Basis.constr_basis, map_D, Module.Basis.coe_repr_symm, eₚ, l₂, e]
+    simp [l₁, hb, v]
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]: I think this is more readable than squeezed simps.
```suggestion
  have : eₚ = b.repr.symm := by
    ext i
    trans IsLocalizedModule.map p.primeCompl l₁ l₂ e (l₁ (Finsupp.single i 1))
    · simp [eₚ, -IsLocalizedModule.map_apply, l₁]
    · simp [l₂, e, hb, v]
```
(if you change the definition of `e`)

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 18]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  have heₚ : Function.Bijective eₚ := by
+    rw [this]
+    exact b.repr.symm.bijective
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  have heₚ : Function.Bijective eₚ := this ▸ b.repr.symm.bijective
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 19]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+    Finsupp.mapRange.linearMap (Algebra.linearMap S _)
+  let l₂ₜ : (Ω[S⁄R]) →ₗ[S] (Ω[Localization.Away g⁄R]) :=
+    map R R S (Localization.Away g)
+  rw [← IsLocalizedModule.map_bijective_iff_localizedModuleMap_bijective l₁ₜ l₂ₜ] at h
+  let eₜ' : (κ →₀ Localization.Away g) →ₗ[Localization.Away g] (Ω[Localization.Away g⁄R]) :=
+    IsLocalizedModule.mapExtendScalars (Submonoid.powers g) l₁ₜ l₂ₜ (Localization.Away g) e
+  use g, hg
+  have : Subsingleton (H1Cotangent R (Localization.Away g)) :=
+    IsLocalizedModule.subsingleton_of_subsingleton (Submonoid.powers g)
+      (Algebra.H1Cotangent.map R R S (Localization.Away g))
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
```
This is by infer instance (since `Localization.Away g` is already `R`-formally smooth).

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 20]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  have : FinitePresentation R (Localization.Away g) :=
+    .trans R S (Localization.Away g)
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
```
This is by infer instance.

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 21]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  let v (s : S) : (Ω[Localization.AtPrime p⁄R]) :=
+    map R R S (Localization.AtPrime p) (D R S s)
+  have hv : Submodule.span (Localization.AtPrime p) (Set.range v) = ⊤ :=
+    span_range_map_derivation_of_isLocalization R _ (Localization.AtPrime p) p.primeCompl
+  have : Algebra.EssFiniteType R (Localization.AtPrime p) :=
+    Algebra.EssFiniteType.comp R S (Localization.AtPrime p)
+  have : Module.FinitePresentation (Localization.AtPrime p) (Ω[Localization.AtPrime p⁄R]) :=
+    Module.finitePresentation_of_projective (Localization.AtPrime p) (Ω[Localization.AtPrime p⁄R])
+  obtain ⟨κ, a, b, hb⟩ := Module.exists_basis_of_span_of_flat v hv
+  let e : (κ →₀ S) →ₗ[S] (Ω[S ⁄R]) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  let e : (κ →₀ S) →ₗ[S] Ω[S⁄R] :=
```
Why do you have parentheses around Omega? (in other places as well).

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 22]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+`S[1/sᵢ]` is `R`-standard-smooth. -/
+theorem Smooth.exists_span_eq_top_isStandardSmooth [Smooth R S] :
+    ∃ (s : Set S), Ideal.span s = ⊤ ∧ ∀ x ∈ s, IsStandardSmooth R (Localization.Away x) := by
+  choose f hf₁ hf₂ using IsSmoothAt.exists_notMem_isStandardSmooth R (S := S)
+  refine ⟨Set.range (fun p : PrimeSpectrum S ↦ f p.asIdeal), ?_, ?_⟩
+  · rw [← PrimeSpectrum.iSup_basicOpen_eq_top_iff, _root_.eq_top_iff]
+    rintro p -
+    rw [TopologicalSpace.Opens.iSup_mk, TopologicalSpace.Opens.coe_mk, Set.mem_iUnion]
+    use p
+    apply hf₁
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  · simp [← PrimeSpectrum.iSup_basicOpen_eq_top_iff, TopologicalSpace.Opens.ext_iff, Set.ext_iff]
    grind
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 23]
```diff
@@ -97,4 +96,91 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  · simp_rw [Set.mem_range, forall_exists_index, forall_apply_eq_imp_iff]
+    intro p
+    apply hf₂
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  · grind
```
Or just merge it into the refine.

**Review by erdOne — COMMENTED** [review]
I finally found the courage to look at the main bits.

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean (hunk 21 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]: Am I dreaming or was this not always possible? Wasn't there always some precedence issue with the notation for `Ω[S⁄R]`?

Comment (erdOne) [reply Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]: Maybe in the lean3 days? I have some faint memories about this as well.

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 24]
```diff
@@ -97,4 +96,71 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+    obtain ⟨g', hg', hstd⟩ := this (R := R) (p.map (algebraMap S (Localization.Away g))) hsm
+    have : IsLocalization.Away (g * (IsLocalization.Away.sec g g').1) (Localization.Away g') :=
+      .mul_of_associated _ _ g' <| IsLocalization.Away.associated_sec_fst g g'
+    let e : Localization.Away (g * (IsLocalization.Away.sec g g').1) ≃ₐ[S] Localization.Away g' :=
+      Localization.algEquiv _ _
+    refine ⟨g * (IsLocalization.Away.sec g g').1, ?_, .of_algEquiv (e.restrictScalars R).symm⟩
+    refine Ideal.IsPrime.mul_notMem ‹_› hg fun hmem ↦ hg' ?_
+    rw [Ideal.mem_iff_of_associated (IsLocalization.Away.associated_sec_fst g g').symm]
+    exact Ideal.mem_map_of_mem (algebraMap S (Localization.Away g)) hmem
+  -- `Ω[Localization.AtPrime p⁄R]` is projective, so free over the local ring `Sₚ` and
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  -- `Ω[Sₚ⁄R]` is projective, so free over the local ring `Sₚ` and
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 25]
```diff
@@ -97,4 +96,71 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  -- a basis extends to a neighbourhood `D(g)`.
+  let v (s : S) : Ω[Localization.AtPrime p⁄R] :=
+    map R R S (Localization.AtPrime p) (D R S s)
+  have hv : Submodule.span (Localization.AtPrime p) (Set.range v) = ⊤ :=
+    span_range_map_derivation_of_isLocalization R _ (Localization.AtPrime p) p.primeCompl
+  obtain ⟨κ, a, b, hb⟩ := Module.exists_basis_of_span_of_flat v hv
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  obtain ⟨κ, a, b, hb⟩ := Module.exists_basis_of_span_of_flat _
    (span_range_map_derivation_of_isLocalization R _ (Localization.AtPrime p) p.primeCompl)
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 26]
```diff
@@ -97,4 +96,71 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+    map R R S (Localization.Away g)
+  rw [← IsLocalizedModule.map_bijective_iff_localizedModuleMap_bijective l₁ₜ l₂ₜ] at h
+  let eₜ' : (κ →₀ Localization.Away g) →ₗ[Localization.Away g] Ω[Localization.Away g⁄R] :=
+    IsLocalizedModule.mapExtendScalars (Submonoid.powers g) l₁ₜ l₂ₜ (Localization.Away g) e
+  use g, hg
+  refine .of_basis_kaehlerDifferential (.ofRepr (LinearEquiv.ofBijective eₜ' h).symm) ?_
+  rintro - ⟨i, rfl⟩
+  use algebraMap S (Localization.Away g) (a i)
+  have : Finsupp.single i 1 = l₁ₜ (Finsupp.basisSingleOne i) := by simp [l₁ₜ]
+  simp [eₜ', this, l₂ₜ, e]
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  exact ⟨algebraMap S _ (a i), by simp +zetaDelta [IsLocalizedModule.map_linearCombination]⟩
```

File: Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean [hunk 27]
```diff
@@ -97,4 +96,71 @@ theorem Etale.iff_isStandardSmoothOfRelativeDimension_zero :
...
+  obtain ⟨g, hg, h⟩ := Module.FinitePresentation.exists_notMem_bijective e p l₁ l₂ heₚ
+  let l₁ₜ : (κ →₀ S) →ₗ[S] (κ →₀ Localization.Away g) :=
+    Finsupp.mapRange.linearMap (Algebra.linearMap S _)
+  let l₂ₜ : Ω[S⁄R] →ₗ[S] Ω[Localization.Away g⁄R] :=
+    map R R S (Localization.Away g)
+  rw [← IsLocalizedModule.map_bijective_iff_localizedModuleMap_bijective l₁ₜ l₂ₜ] at h
+  let eₜ' : (κ →₀ Localization.Away g) →ₗ[Localization.Away g] Ω[Localization.Away g⁄R] :=
+    IsLocalizedModule.mapExtendScalars (Submonoid.powers g) l₁ₜ l₂ₜ (Localization.Away g) e
+  use g, hg
+  refine .of_basis_kaehlerDifferential (.ofRepr (LinearEquiv.ofBijective eₜ' h).symm) ?_
```
Comment (erdOne) [inline Mathlib/RingTheory/Smooth/StandardSmoothOfFree.lean]:
```suggestion
  refine ⟨g, hg, .of_basis_kaehlerDifferential (.ofRepr (LinearEquiv.ofBijective eₜ' h).symm) ?_⟩
```

**Review by erdOne — APPROVED** [review]
Some boring golfs
otherwise LGTM

**Comment by erdOne** [comment]
Thanks!
maintainer merge
